US04060633
9.7 g. of KCN are dissolved in 150 ml. of DMF and a solution of 40 g. of 3-(4'-fluoro-4-biphenylyl)-butane-1,3-diol-1-benzenesulfonate in 150 ml. of DMF is added dropwise at 20°, while stirring. The mixture is heated to 80° for 6 hours, poured onto ice water and worked up in the customary manner to give 1-cyano-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, m.p. 118° - 120°.

reactant | KCN | [C-]#N.[K+]
reactant | 3-(4'-fluoro-4-biphenylyl)-butane-1,3-diol 1-benzenesulfonate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCO)(C)O.C1(=CC=CC=C1)S(=O)(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-cyano-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | C(#N)CCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C17H16FNO
